US06635640B2
3-(5-Methylthiophen-2-ylmethylene)-4-pyridin-4-yl-1,3-dihydroindol-2-one
4-Pyridin-4-yl-1,3-dihydroindol-2-one was condensed with 5-methylthiophene-2-carbaldehyde to give the title compound.

reactant | 4-Pyridin-4-yl-1,3-dihydroindol-2-one | N1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O | C13H10N2O
reactant | 5-methylthiophene-2-carbaldehyde | CC1=CC=C(S1)C=O | C6H6OS
product | 3-(5-Methylthiophen-2-ylmethylene)-4-pyridin-4-yl-1,3-dihydroindol-2-one | CC1=CC=C(S1)C=C1C(NC2=CC=CC(=C12)C1=CC=NC=C1)=O | C19H14N2OS
